**************************************************
* Manufacturer:           N/A 
* Kinds:                  Test Jig
* Library Type:           LTspice
* Version:                1.0.0
* Created/modified by:    Jacob Faseler      
* Date and Time:          2024-06-26
* Team:                   Self  
* Contact:                jacob.faseler@gmail.com
**************************************************
* Copyright(C) 2024 Jacob Faseler
* All Rights Reserved.
**************************************************
.subckt Aol IN+ Aol GND
LdcBias Offset IN+ 1T Rser=10m
CacCouple IN+ Stimulus 1T
Vstim Stimulus GND AC 1
E§OffsetAdj Offset GND Aol GND 1
.ends
