**************************************************
* Manufacturer:           N/A 
* Kinds:                  Source Constraint
* Library Type:           LTspice
* Version:                1.0.0
* Created/modified by:    Jacob Faseler      
* Date and Time:          2024-06-26
* Team:                   Self  
* Contact:                jacob.faseler@gmail.com
**************************************************
* Copyright(C) 2024 Jacob Faseler
* All Rights Reserved.
**************************************************
.subckt Iconst 1 2
I1 3 1 {Isrc}
I2 3 2 {Isnk}
D1 1 3 ID
D2 2 3 ID
R2 1 3 {1/gmin}
R3 3 2 {1/gmin}
.MODEL ID D(Ron=0 Roff={1/gmin} Vfwd=0)
.ends
