**************************************************
* Manufacturer:           N/A 
* Kinds:                  Source Constraint
* Library Type:           LTspice
* Version:                1.0.0
* Created/modified by:    Jacob Faseler      
* Date and Time:          2024-06-26
* Team:                   Self  
* Contact:                jacob.faseler@gmail.com
**************************************************
* Copyright(C) 2024 Jacob Faseler
* All Rights Reserved.
**************************************************
.subckt Vconst 1 2
V1 p 2 {Vpos}
D1 1 p ID
D2 2 n ID
V2 1 n {Vneg}
R2 n 2 {1/gmin}
R1 1 p {1/gmin}
.MODEL ID D(Ron=0 Roff={1/gmin} Vfwd=0)
.ends
